US04038287
Into the reaction apparatus used in Example 1, 160 g of ethyl alcohol, 16.8 g of ornithine hydrochloride and 5.6 g of potassium hydroxide were added. The resulting mixture was reacted for 3 hours, refluxing the solvent, while being stirred. After the reaction was over, the resultant product was cooled to room temperature and then the by-product potassium chloride was filtered off. Then the solvent was distilled off from the resultant product under reduced pressure to obtain 13.0 g of ornithine in a syrupy state.

reactant | ornithine hydrochloride | 16.8 g | Cl.N[C@@H](CCCN)C(=O)O
reactant | potassium hydroxide | 5.6 g | [OH-].[K+]
solvent | ethyl alcohol | 160 g | C(C)O | C2H6O
product | ornithine | 13.0 g | N[C@@H](CCCN)C(=O)O | C5H12N2O2
